US08486950B2
Thiourea (1.0 g, 13 mmol) was dissolved in 1.6 mL of water at 70° C. Methyl 4-methyl-3-oxopentanoate (2.8 g, 20 mmol) was added and followed by K2CO3 (2.7 g, 19 mmol). The reaction was heated at 105° C. open to air for 1 hour to boil off any remaining methanol. After being cooled to room temperature, water (6.6 mL) was added and followed by 6 mL of concentrated HCl. The white precipitate was collected by filtration and washed with water and 1 N HCl to afford 6-isopropyl-2-mercaptopyrimidin-4-ol as a white solid (1.5 g, yield: 46%). 1H NMR (400 MHz, DMSO-d6): δ 12.34 (s, 1H), 12.19 (s, 1H), 5.67 (s, 1H), 2.66 (m, 1H), 1.13 (d, J=6.8 Hz, 6H). LCMS (ESI) m/z: 171.0 [M+H+].

reactant | Thiourea | 13 mmol, 1.0 g | NC(=S)N | CH4N2S
reactant | Methyl 4-methyl-3-oxopentanoate | 20 mmol, 2.8 g | CC(C(CC(=O)OC)=O)C | C7H12O3
reactant | K2CO3 | 19 mmol, 2.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 6 mL | Cl | ClH
solvent | water | 1.6 mL | O | H2O
solvent | water | 6.6 mL | O | H2O
solvent | methanol | CO | CH4O
product | 6-isopropyl-2-mercaptopyrimidin-4-ol | 1.5 g, yield: 46% | C(C)(C)C1=CC(=NC(=N1)S)O | C7H10N2OS
